US04509537
1-(2-Methoxyphenoxycarbonyloxy)-2-ethanol
The reaction of 2-methoxyphenyl chloroformate with ethylene glycol is conducted on a 0.01 mole scale employing the same conditions as described in Example III. A 0.7 g yield of the pure product is obtained as an oil. The product is unstable and decomposes quantitatively after standing at room temperature for several hours.

reactant | 2-methoxyphenyl chloroformate | ClC(=O)OC1=C(C=CC=C1)OC | C8H7ClO3
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 1-(2-Methoxyphenoxycarbonyloxy)-2-ethanol | COC1=C(OC(=O)OCCO)C=CC=C1 | C10H12O5
